US05747205
Synthesis of Tris[4'-(diphenylamino)-1,1'-biphenyl-4-yl]amine -Compound(4)
A 250 milliliter 3-necked round bottom flask equipped with a mechanical stirrer, reflux condenser, and argon inlet was purged with argon and then charged with N,N-diphenylbenzidine (4.95 grams, 0.0147 mol), 4'-iodo-N, N-diphenyl-4-aminobiphenyl (11.0 grams, 0.0246 mol), xylene (15 milliliters), 1,10-phenanthroline (0.22 gram, 1.22 mmol), cuprous chloride (0.122 gram, 1.22 mmol), and potassium hydroxide flakes (11.04 grams, 0.197 mol). Under an argon atmosphere, the reaction mixture was heated to reflux with an oil bath and allowed to proceed at that temperature until chromatographic analysis indicated that the reaction was complete after approximately 6 hours. The oil bath was removed and 100 milliliters of toluene and 20 milliliters of water were then added with efficient stirring. The resulting two phase mixture was transferred into a separatory funnel and the layers separated. The organic phase was washed with water and treated under argon with 25 grams of alumina. After the alumina was filtered off, the organic phase was evaporated to remove the toluene. The above product compound was obtained by recrystallization of the residue from cyclohexane. Yield: 6.9 grams. m.p. 283.97° C., Tg 141° C.

reactant | N,N-diphenylbenzidine | 0.0147 mol, 4.95 grams | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(N)C=C1)C1=CC=CC=C1 | C24H20N2
reactant | 4'-iodo-N, N-diphenyl-4-aminobiphenyl | 0.0246 mol, 11.0 grams | IC1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C24H18IN
reactant | 1,10-phenanthroline | 1.22 mmol, 0.22 gram | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | potassium hydroxide | [OH-].[K+]
solvent | xylene | 15 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | Tris[4'-(diphenylamino)-1,1'-biphenyl-4-yl]amine | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C72H54N4
